US04388463
N-Methyl-4-(1-phenyl-1H-5-tetrazolyloxy)morphinan-6-one
A mixture of 1.57 g (5.79 mmol) 4-hydroxy-N-methylmorphinan-6-one, 1.57 g (11.36 mmol) dry K2CO3 and 1.15 g (6.37 mml) 5-chloro-1-phenyl-1H-tetrazole din 30 ml dry DMF was stirred under argon for 24 h at room temperature. Then the reaction mixture was filtered, washed with CHCl3 and the filtrate was evaporated in vacuo (70° bath temperature). The oily residue was dissolved in CHCl3 and extracted with 2×20 ml 5% tartaric acid. The aqueous layer was rendered alkaline with conc. NaOH and extracted with CHcl3. The organic layer was washed with brine, dried and evaporated to give 2.2 g of an oil, which was crystallized with EtOAc/Et2O to yield 2.05 g (85%) of N-methyl-4-(1-phenyl-1H-5-tetrazolyloxy) morphinen-6-one, m.p. 172°-174°, [α]D26 -37.4° (c 1.35, CHCl3).

reactant | 4-hydroxy-N-methylmorphinan-6-one | 5.79 mmol, 1.57 g | OC1=CC=CC=2C[C@@H]3[C@@H]4CCC(C[C@@]4(C12)CCN3C)=O | C17H21NO2
reactant | K2CO3 | 11.36 mmol, 1.57 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-chloro-1-phenyl-1H-tetrazole | 1.15 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-Methyl-4-(1-phenyl-1H-5-tetrazolyloxy)morphinan-6-one | 2.2 g | CN1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C(=CC=CC3C2)OC2=NN=NN2C2=CC=CC=C2)CC1)=O | C24H25N5O2
